US04783453
A mixture of p-nitrobenzyl (5R,6S)-2-azido-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate (75 mg, 0.2 mmol), tetrahydrofuran (14 ml), ethanol (14 ml), deionized water (11 ml) containing sodium bicarbonate (16.8 mg, 0.2 mmol), and 10% palladium on carbon (75 mg) is shaken under hydrogen (45 psi) at ambient temperature for 2 hours. The mixture is filtered through a celite pad to remove the catalyst which is washed with water. The combined filtrate and wash is extracted with three portions of diethyl ether, concentrated under vacuum to about 10 ml volume, and lyophilized to afford sodium (5R,6S)-2-amino-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate.

reactant | p-nitrobenzyl (5R,6S)-2-azido-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate | 0.2 mmol, 75 mg | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O | C16H15N5O6
reactant | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
reactant | ethanol | 14 ml | C(C)O | C2H6O
reactant | sodium bicarbonate | 0.2 mmol, 16.8 mg | C([O-])(O)=O.[Na+]
catalyst | palladium on carbon | 75 mg | [Pd] | Pd
solvent | water | 11 ml | O | H2O
product | sodium (5R,6S)-2-amino-6-[(R)-1-hydroxyethyl]carbapen-2-em-3-carboxylate | NC=1C[C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O.[Na+] | InChI=1S/C9H12N2O4.Na/c1-3(12)6-5-2-4(10)7(9(14)15)11(5)8(6)13;/h3,5-6,12H,2,10H2,1H3,(H,14,15);/q;+1/p-1/t3-,5-,6-;/m1./s1
